US07622471B2
1-[1-(6-Methoxy-3-pyridyl)-5-phenylpyrazole-3-carbonyl]-2-(2-azidoethyl)piperidine
1-(6-Methoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid (191 mg) obtained from Referential Example 41, 2-(2-azidoethyl)piperidine (100 mg) obtained from Referential Example 80, 1-hydroxybenzotriazole (88 mg), and triethylamine (316 μL) were dissolved in methylene chloride (10 mL). To the resultant mixture, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (186 mg) was added at room temperature, followed by stirring for 14 hours. The residue obtained by removal through evaporation of the reaction solvent under reduced pressure was partitioned between water and ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The residue obtained by removal through evaporation of the solvent under reduced pressure was purified through silica gel thin-layer chromatography (hexane-ethyl acetate), to thereby give the title compound as an oily product (227 mg, 81%).

reactant | 1-(6-Methoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid | 191 mg | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)C(=O)O | C16H13N3O3
reactant | 2-(2-azidoethyl)piperidine | 100 mg | N(=[N+]=[N-])CCC1NCCCC1 | C7H14N4
reactant | 1-hydroxybenzotriazole | 88 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 186 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 316 μL | C(C)N(CC)CC | C6H15N
product | 1-[1-(6-Methoxy-3-pyridyl)-5-phenylpyrazole-3-carbonyl]-2-(2-azidoethyl)piperidine | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)C(=O)N1C(CCCC1)CCN=[N+]=[N-] | C23H25N7O2
